US04335138
52 g (0.8 mole) of sodium cyanate, followed dropwise by 95.8 g (0.84 mole) of trifluoroacetic acid, are added to a solution of 66.4 g (0.4 mole) of 2-hydroxymethylnorborn-5-en-2-yl methyl ketone in 120 ml of methylene chloride at 20° C., with slow stirring. The mixture is then stirred for 5 hours at room temperature, after which it is diluted with water. It is then repeatedly extracted with methylene chloride and the organic phases are combined and dried over sodium sulfate. After distilling off the solvent, a crystalline residue (83.1 g=99%) is obtained, and this is recrystallized from ethyl acetate. 45.8 g of 2-carbamyloxymethylnorborn-5-en-2-yl methyl ketone, of melting point 118°-119° C., are obtained.

reactant | sodium cyanate | 0.8 mole, 52 g | [O-]C#N.[Na+]
reactant | trifluoroacetic acid | 0.84 mole, 95.8 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-hydroxymethylnorborn-5-en-2-yl methyl ketone | 0.4 mole, 66.4 g | CC(=O)C1(C2C=CC(C1)C2)CO | C10H14O2
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-carbamyloxymethylnorborn-5-en-2-yl methyl ketone | 45.8 g | CC(=O)C1(C2C=CC(C1)C2)COC(N)=O | C11H15NO3
